US03956374
Levo-4-(o-Chlorobenzyl)-4-phenyl-5-oxo-7-(m-chlorophenyl)-6-heptenoic Acid
m-Chlorobenzaldehyde (3.5 g., 0.025 mole) in ethanol (10 ml.) is added to a solution of levo-4-(o-chlorobenzyl)-4-phenyl-5-oxohexanoic acid (4.89 g., 0.015 mole) and sodium hydroxide (0.8 g., 0.02 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. The reaction solution is cooled to room temperature, diluted with water (300 ml.), and extracted with ether to remove the excess m-chlorobenzaldehyde. Ether is expelled from the aqueous phase by warming. The solution is cooled in an ice bath, acidified with dilute hydrochloric acid (10 ml.), and the off-white solid that precipitates is filtered and air-dried. Several recrystallizations from n-butyl chloride yields 3.15 g. of material with m.p. 170°-172°C.

reactant | m-Chlorobenzaldehyde | 0.025 mole, 3.5 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 4-(o-chlorobenzyl)-4-phenyl-5-oxohexanoic acid | 0.015 mole, 4.89 g | ClC1=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC=C1 | C19H19ClO3
reactant | sodium hydroxide | 0.02 mole, 0.8 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 4-(o-Chlorobenzyl)-4-phenyl-5-oxo-7-(m-chlorophenyl)-6-heptenoic Acid | ClC1=C(CC(CCC(=O)O)(C(C=CC2=CC(=CC=C2)Cl)=O)C2=CC=CC=C2)C=CC=C1 | C26H22Cl2O3
